US06187781B1
4-(5-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)-2-chloro-6-methylpyrimidine (1.10 g), 2-bromo-4-isopropylaniline hydrochloride (0.97 g), and diisopropylethylamine (0.50 g) were heated at reflux in 5 ml of ethylene glycol for 1 hour. The reaction solution was poured into a saturated sodium hydrogencarbonate aqueous solution and extracted with ethyl acetate. The extract was washed with water and then with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=3/1) to give 1.32 g of 2-[N-(2-bromo-4-isopropylphenyl)amino]-4-(5-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-6-methylpyrimidine as an amorphous substance.

reactant | 4-(5-Phenyl-1,2,3,6-tetrahydropyridin-1-yl)-2-chloro-6-methylpyrimidine | 1.10 g | C1(=CC=CC=C1)C1=CCCN(C1)C1=NC(=NC(=C1)C)Cl | C16H16ClN3
reactant | 2-bromo-4-isopropylaniline hydrochloride | 0.97 g | Cl.BrC1=C(N)C=CC(=C1)C(C)C
reactant | diisopropylethylamine | 0.50 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 2-[N-(2-bromo-4-isopropylphenyl)amino]-4-(5-phenyl-1,2,3,6-tetrahydropyridin-1-yl)-6-methylpyrimidine | 1.32 g | BrC1=C(C=CC(=C1)C(C)C)NC1=NC(=CC(=N1)N1CCC=C(C1)C1=CC=CC=C1)C | C25H27BrN4
